US06172057B2
4-(4-Methoxy-benzenesulfonyl)-1-(3-phenyl-propyl)-piperidine-4-carboxylic acid was prepared starting from 4-(4-Methoxy-benzenesulfonyl)-1-(3-phenyl-propyl)-piperidine-4-carboxylic acid ethyl ester (10.74 g, 24.13 mmol) dissolved in THF:methanol 3:1 and 10 N NaOH (40 ml). The resulting reaction mixture was worked up as outlined in example 83. Yield 4.67 g (47%); off white powder; mp 203° C.; MS: 418.2 (M+H)+.

reactant | 4-(4-Methoxy-benzenesulfonyl)-1-(3-phenyl-propyl)-piperidine-4-carboxylic acid ethyl ester | 24.13 mmol, 10.74 g | C(C)OC(=O)C1(CCN(CC1)CCCC1=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)OC | C24H31NO5S
solvent | THF methanol | C1CCOC1.CO
solvent | NaOH | 10 N, 40 ml | [OH-].[Na+]
product | 4-(4-Methoxy-benzenesulfonyl)-1-(3-phenyl-propyl)-piperidine-4-carboxylic acid | COC1=CC=C(C=C1)S(=O)(=O)C1(CCN(CC1)CCCC1=CC=CC=C1)C(=O)O | C22H27NO5S
